US04582862
(C1) 1-(4-Mercaptophenyl)-2-methyl-2-morpholinopropan-1-one
451 g of hydrated sodium sulfide (Na2S content 32-38%≈2 mols) are suspended in 800 ml of N-methyl-2-pyrrolidone and 400 ml of toluene and the mixture is warmed to 130°. Approx. 290 ml of water are removed in a water separator, and the toluene is then removed by distillation. 100 g (0.37 mol) of 1-(4-chlorophenyl)-2-methyl-2-morpholinopropan-1-one are introduced into the warm solution in portions, and the suspension is heated at 140° for 12 hours. After cooling, the pH of the reaction mixture is adjusted to 6 by adding 6N HCl, and the solution is freed from H2S. The solution is then diluted with 1 liter of water and extracted with diethyl ether. The ether extracts are extracted by shaking several times with 20% sodium hydroxide solution, and the combined aqueous alkaline extracts are neutralised with 6N HCl and extracted by shaking with diethyl ether. The ether extracts are dried over MgSO4 and concentrated. The oil which remains is crystallised from cyclohexane. Melting point 68°-69° C. (Compound No. 22).

reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | 1-(4-chlorophenyl)-2-methyl-2-morpholinopropan-1-one | 0.37 mol, 100 g | ClC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18ClNO2
reactant | HCl | 6N | Cl | ClH
reactant | H2S | S | H2S
solvent | N-methyl-2-pyrrolidone | 800 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 1 liter | O | H2O
product | 1-(4-Mercaptophenyl)-2-methyl-2-morpholinopropan-1-one | SC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H19NO2S
